US08357706B2
To a flask containing the crude suspension of (R)-N-(4-cyano-2,3-dihydro-1H-indene-1-ylidene)-2-methylpropane-2-sulfinamide INT-48 under N2 was added THF (1.0 L) and the reaction mixture cooled to −78° C. Sodium borohydride (40.9 g, 1.08 mol) was added portion-wise over 30 mins. (The internal temperature did not rise during the addition). The reaction mixture was stirred at −78° C. for 30 mins, half out of the bath for 30 mins, then warmed to 0° C. over 1 h. The 0° C. reaction mixture was placed in an ice bath and quenched with brine (100 mL) followed by saturated sodium potassium tartrate (420 mL) and the Ti salts precipitated. The reaction mixture was diluted with EA (1.5 L) and stirred at room temperature overnight. The organic layers were decanted and washed successively with saturated NH4Cl, water, and brine. The organic layers were dried over MgSO4 and filtered through a pad of MgSO4. The filtrate was concentrated to produce 52.9 g of crude (R)-N-((R)-4-cyano-2,3-dihydro-1H-inden-1-yl)-2-methylpropane-2-sulfinamide INT-49 as a brown oil, which was used directly in the next step. LCMS-ESI (m/z) calculated for C14H18N2OS: 262.3; found 263.1 [M+H]+, tR=2.99 min. 1H NMR (400 MHz, CDCl3) δ 7.89 (d, J=7.7, 1H), 7.56 (t, J=6.8, 1H), 7.36 (t, J=7.7, 1H), 4.97 (q, J=7.5, 1H), 3.50 (d, J=7.6, 1H), 3.22 (ddd, J=16.9, 8.8, 3.9, 1H), 3.01 (dt, J=22.4, 6.9, 1H), 2.70-2.53 (m, 1H), 2.15-1.95 (m, 1H), 1.33-1.20 (m, 9H).

reactant | (R)-N-(4-cyano-2,3-dihydro-1H-indene-1-ylidene)-2-methylpropane-2-sulfinamide | C(#N)C1=C2CCC(C2=CC=C1)=N[S@](=O)C(C)(C)C | C14H16N2OS
reactant | Sodium borohydride | 1.08 mol, 40.9 g | [BH4-].[Na+]
solvent | THF | 1.0 L | C1CCOC1 | C4H8O
product | (R)-N-((R)-4-cyano-2,3-dihydro-1H-inden-1-yl)-2-methylpropane-2-sulfinamide | 52.9 g | C(#N)C1=C2CC[C@H](C2=CC=C1)N[S@](=O)C(C)(C)C | C14H18N2OS
